US07683091B2
N-(4-{[5-({[4-(Trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-1-yl]methyl}benzoyl)-L-phenylalanine
The title compound was prepared from ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate and 4-trifluoromethoxyphenyl sulfonyl chloride following the procedure of Example 10: MS (ESI) m/z 638; MS (ESI) m/z 636.

reactant | ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate | NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1 | C27H27N3O3
reactant | 4-trifluoromethoxyphenyl sulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-(4-{[5-({[4-(Trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-1-yl]methyl}benzoyl)-L-phenylalanine | FC(OC1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1)(F)F | C32H26F3N3O6S
